US06288096B1
10 g (47 mmole) 4-(methylsulfonyl)phenyl acetic acid was dissolved in 40 ml tetrahydrofuran and the solution was cooled to −10° C. At this temperature 4-(methylsulfonyl)phenyl acetic acid precipitates. 47 ml 1 M borane-tetrahydrofuran complex was added slowly. The reaction mixture was allowed to reach room temperature and the reaction was followed by TLC. After completion 100 ml methanol was added and the solvents were evaporated. The residue was dissolved in dichloromethane and washed with sodium hydroxide. The organic phase was dried, filtered and evaporated in vacuo to give 7.5 g (yield 79.7%) of 2-[4-(methylsulfonyl)phenyl]-1-ethanol.

reactant | 4-(methylsulfonyl)phenyl acetic acid | 47 mmole, 10 g | CS(=O)(=O)C1=CC=C(C=C1)CC(=O)O | C9H10O4S
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-[4-(methylsulfonyl)phenyl]-1-ethanol | 7.5 g, yield 79.7% | CS(=O)(=O)C1=CC=C(C=C1)CCO | C9H12O3S
